US05322847
1. 3-nitro-4-(p-hydroxymethylphenylamino)pyridine
In a manner similar to Preparation Al 88.5 g of 3-nitro-4-chloropyridine, 68.7 g of 4-aminobenzyl alcohol and 46.9 g of sodium bicarbonate in 500 ml of ethanol to give 56.3 g of the titled intermediate.

reactant | 3-nitro-4-chloropyridine | [N+](=O)([O-])C=1C=NC=CC1Cl | C5H3ClN2O2
reactant | 4-aminobenzyl alcohol | 68.7 g | NC1=CC=C(CO)C=C1 | C7H9NO
reactant | sodium bicarbonate | 46.9 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3-nitro-4-(p-hydroxymethylphenylamino)pyridine | 56.3 g | [N+](=O)([O-])C=1C=NC=CC1NC1=CC=C(C=C1)CO | C12H11N3O3
